US09107964B2
570 mg (1.56 mmol equivalents) of 5-benzyloxyethyl-2,2-dimethyl-5-(t-butyldiphenylsiloxymethyl)-1,3-dioxane was dissolved in 30 mL of ethyl acetate, 100 mg of palladium carbon was added thereto under argon atmosphere, and the mixture was stirred under hydrogen atmosphere at room temperature (25° C.) for 22 hours. After completion of the reaction, a precipitate was filtered, and the filtrate was concentrated under vacuum. The obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=4/1) to give 174 mg (0.41 mmol equivalents) of 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-hydroxyethyl-1,3-dioxane.

reactant | 5-benzyloxyethyl-2,2-dimethyl-5-(t-butyldiphenylsiloxymethyl)-1,3-dioxane | 1.56 mmol, 570 mg | C(C1=CC=CC=C1)OCCC1(COC(OC1)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C32H42O4Si
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-hydroxyethyl-1,3-dioxane | 0.41 mmol, 174 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1(COC(OC1)(C)C)CCO | C25H36O4Si
